US07645789B2
A mixture of (7-chlorobenzo[d][1,3]-dioxol-5-yl)methanol (5.5 g, 30 mmol) and SOCl2 (5.0 mL, 67 mmol) in dichloromethane (20 mL) was stirred at room temperature for 1 h and was then poured into ice water. The organic layer was separated and the aqueous phase was extracted with dichloromethane (50 mL×3). The combined extracts were washed with water and aqueous NaHCO3 solution, dried over Na2SO4 and evaporated under reduced pressure to afford 4-chloro-6-(chloromethyl)benzo[d][1,3]dioxole, which was directly used in the next step.

reactant | (7-chlorobenzo[d][1,3]-dioxol-5-yl)methanol | 30 mmol, 5.5 g | ClC1=CC(=CC2=C1OCO2)CO | C8H7ClO3
reactant | SOCl2 | 67 mmol, 5.0 mL | O=S(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-chloro-6-(chloromethyl)benzo[d][1,3]dioxole | ClC1=CC(=CC=2OCOC21)CCl | C8H6Cl2O2
